US07622471B2
1) 4-(3-Pyridazinyl)-2,4-dioxobutanoic acid methyl ester
In an argon atmosphere and while cooling at −78° C., 1.0M lithium bis(trimethylsilyl)amide in tetrahydrofuran (19 mL) was added dropwise to 3-acetylpyridazine (2.097 g) in tetrahydrofuran (50 mL), followed by stirring for 1 hour. To the reaction mixture, dimethyl oxalate (4.055 g) in tetrahydrofuran (35 mL) was added dropwise, and the resultant mixture was stirred at 0° C. for 2 hours. The reaction solvent was removed under reduced pressure. Water was added to the residue, and the mixture was washed with diethyl ether. The aqueous layer was slightly acidified with aqueous 1N hydrochloric acid, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate anhydrate, followed by filtration. The solvent was removed under reduced pressure, to thereby give 4-(3-pyridazinyl)-2,4-dioxobutanoic acid methyl ester as a solid (2.63 g, 73%).

reactant | lithium bis(trimethylsilyl)amide | 1.0M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-acetylpyridazine | 2.097 g | C(C)(=O)C=1N=NC=CC1 | C6H6N2O
reactant | dimethyl oxalate | 4.055 g | C(C(=O)OC)(=O)OC | C4H6O4
solvent | tetrahydrofuran | 19 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | 4-(3-Pyridazinyl)-2,4-dioxobutanoic acid methyl ester | COC(C(CC(=O)C=1N=NC=CC1)=O)=O | C9H8N2O4
